US09255089B2
To a microwave vial containing 5-(3,5-dimethylisoxazol-4-yl)-7-iodo-1-methyl-1H-benzo[d]imidazol-2(3H)-one (40 mg, 0.11 mmol, 1 equiv.) was added 1,4-dimethyl-1H-pyrazol-5-ylboronic acid (72 mg, 0.32 mmol, 3 equiv.), Cs2CO3 (141 mg, 0.43 mmol, 4 equiv.) and PEPPSI™-IPr catalyst (8 mg, 0.02 mmol, 0.1 equiv.) and dissolved in DME-H2O (20 mL, 0.2 M, 2/1, v/v). The mixture was heated to 140° C. After 1 hr, the reaction was complete. After cooling, the reaction was extracted with EtOAc and washed with water and saturated NH4C1. After drying with MgSO4, it was filtered and concentrated to dryness. Purification was carried out by reverse phase HPLC to furnish 7-(1,4-dimethyl-1H-pyrazol-5-yl)-5-(3,5-dimethylisoxazol-4-yl)-1-methyl-1H-benzo[d]imidazol-2(3H)-one.

reactant | 5-(3,5-dimethylisoxazol-4-yl)-7-iodo-1-methyl-1H-benzo[d]imidazol-2(3H)-one | 0.11 mmol, 40 mg, 1 equiv. | CC1=NOC(=C1C1=CC2=C(N(C(N2)=O)C)C(=C1)I)C | C13H12IN3O2
reactant | 1,4-dimethyl-1H-pyrazol-5-ylboronic acid | 0.32 mmol, 72 mg, 3 equiv. | CN1N=CC(=C1B(O)O)C | C5H9BN2O2
reactant | Cs2CO3 | 0.43 mmol, 141 mg, 4 equiv. | C(=O)([O-])[O-].[Cs+].[Cs+]
catalyst | IPr | 0.02 mmol, 8 mg, 0.1 equiv. | ICCC | C3H7I
solvent | DME H2O | COCCOC.O
product | 7-(1,4-dimethyl-1H-pyrazol-5-yl)-5-(3,5-dimethylisoxazol-4-yl)-1-methyl-1H-benzo[d]imidazol-2(3H)-one | CN1N=CC(=C1C1=CC(=CC2=C1N(C(N2)=O)C)C=2C(=NOC2C)C)C | C18H19N5O2
